US09388189B2
c) (S)-4-Amino-N-(5-carbamoyl-2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (125 mg, 0.44 mmol), 4-amino-N-(5-carbamoyl-2-methoxyphenyl)-6-chloropyrimidine-5-carboxamide (216 mg, 0.67 mmol), DIEA (385 μl, 2.21 mmol) and cesium fluoride (134 mg, 0.88 mmol) were suspended in tert-butanol (7 ml) and the mixture was heated overnight at 120° C. in a sealed tube. The reaction mixture was diluted with ethyl acetate and washed with water and brine. After evaporation of the solvent, the residue (400 mg, 49% purity, 80% yield) was used in the next synthetic step without further purification.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.44 mmol, 125 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-N-(5-carbamoyl-2-methoxyphenyl)-6-chloropyrimidine-5-carboxamide | 0.67 mmol, 216 mg | NC1=NC=NC(=C1C(=O)NC1=C(C=CC(=C1)C(N)=O)OC)Cl | C13H12ClN5O3
reactant | DIEA | 2.21 mmol, 385 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 0.88 mmol, 134 mg | [F-].[Cs+]
solvent | tert-butanol | 7 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Amino-N-(5-carbamoyl-2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 80% yield | NC1=NC=NC(=C1C(=O)NC1=C(C=CC(=C1)C(N)=O)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H27N9O4
